US08471005B2
[7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine (70.00 mg, 0.163 mmol) was dissolved in tetrahydrofuran (0.300 mL) and the reaction mixture was placed in a sealed tube. (R)-(−)-Propylene oxide (14.2 mg, 0.244 mmol) was then added at room temperature and the reaction was next stirred overnight at 50° C. The solvent was evaporated under reduced pressure and the product was isolated by flash column chromatography (Silicagel, methanol/dichloromethane 0-10% gradient) to afford (R)-1-(4-{3-methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-propan-2-ol as a tan solid (39 mg, 49%). MP: 67-74° C.; 1H-NMR (CDCl3) δ 8.69 (s, 1H), 8.29 (d, J=8.1 Hz, 1H), 7.99 (d, J=7.7 Hz, 1H), 7.43 (m, 2H), 7.14 (m, 1H), 7.07 (d, J=8.4 Hz, 1H), 7.02 (d, J=4.4 Hz, 1H), 6.83 (d, J=4.4 Hz, 1H), 6.73 (s, 1H), 6.71 (d, J=8.1 Hz, 1H), 3.90 (s, 3H), 3.89 (m, 1H), 3.84 (s, 3H), 3.15 (m, 1H), 2.94 (m, 1H), 2.35 (m, 4H), 2.06 (m, 1H), 1.79 (m, 4H), 1.30 (br s, 1H), 1.16 (d, J=5.8 Hz, 3H); LC/MS (ESI+): 488.2 (M+H).

reactant | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-(2-methoxy-4-piperidin-4-yl-phenyl)-amine | 0.163 mmol, 70.00 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)C2CCNCC2)OC | C25H27N5O2
reactant | (R)-(−)-Propylene oxide | 0.244 mmol, 14.2 mg | C1[C@@H](C)O1 | C3H6O
solvent | tetrahydrofuran | 0.300 mL | O1CCCC1 | C4H8O
product | (R)-1-(4-{3-methoxy-4-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-propan-2-ol | 39 mg, 49% | COC=1C=C(C=CC1NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC)C2CCN(CC2)C[C@@H](C)O | C28H33N5O3
